### PR TITLE
[Merged by Bors] - doc(CategoryTheory/Bicategory/Kan): clarify Kan adjunction docstrings

### PR DESCRIPTION
**Pull request by harahu**
* The two IsAbsKan.adjunction docstrings in Kan/Adjunction were corrected to match the actual definitions: they now describe deriving adjunctions from absolute left Kan (co)universal data, not from an input adjunction.
* Grammar and phrasing were cleaned up in the IsKan.adjunction docs (commutes with f/u).
* In Kan/HasKan and Kan/IsKan, stale/non-API names were replaced by the current identifiers (lan, lanLift, HasLeftKanExtension) and Kan capitalization was normalized.

---

The issues were identified and fixed by Codex.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean [hunk 1]
```diff
@@ -74,7 +74,7 @@ def Adjunction.isAbsoluteLeftKan {f : a ⟶ b} {u : b ⟶ a} (adj : f ⊣ u) :
       _ = _ := by
         rw [hτ]; dsimp only [StructuredArrow.homMk_right]
 
-/-- A left Kan extension of the identity along `f` such that `f` commutes with is a right adjoint
+/-- A left Kan extension of the identity along `f` that commutes with `f` is a right adjoint
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean]: This "commutes with `f`" needs to be clarified. This construction is not using `Lan.CommuteWith` but rather taking a general `LeftExtension` `t` such that `IsKan t` and `IsKan (t.whisker f)` (but this is mathematically the same thing). You could say something like "A left Kan extension of the identity along `f`, that commutes with `f` in the sense that `t.whisker f` is a Kan extension, is a right adjoint"

File: Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean [hunk 2]
```diff
@@ -153,7 +153,7 @@ def Adjunction.isAbsoluteLeftKanLift {f : a ⟶ b} {u : b ⟶ a} (adj : f ⊣ u)
         _ = _ := by
           rw [hτ]; dsimp only [StructuredArrow.homMk_right]
 
-/-- A left Kan lift of the identity along `u` such that `u` commutes with is a left adjoint
+/-- A left Kan lift of the identity along `u` that commutes with `u` is a left adjoint
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean]: Same comment about "commutes with"

File: Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean (hunk 1 above)
Comment (harahu) [reply Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean]: I've updated the wording more-or-less as you suggest. Let me know what you think.

File: Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean (hunk 2 above)
Comment (harahu) [reply Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean]: I've updated the wording more-or-less as you suggest. Let me know what you think.

File: Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean [hunk 3]
```diff
@@ -74,8 +74,9 @@ def Adjunction.isAbsoluteLeftKan {f : a ⟶ b} {u : b ⟶ a} (adj : f ⊣ u) :
       _ = _ := by
         rw [hτ]; dsimp only [StructuredArrow.homMk_right]
 
-/-- A left Kan extension of the identity along `f` such that `f` commutes with is a right adjoint
-to `f`. The unit of this adjoint is given by the unit of the Kan extension. -/
+/-- A left Kan extension of the identity along `f` that commutes with `f`, in the sense that
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Kan/Adjunction.lean]:
```suggestion
/-- A left Kan extension `t` of the identity along `f` that commutes with `f`, in the sense that
```

**Comment by harahu** [comment]
-awaiting-author

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean [hunk 4]
```diff
@@ -95,7 +95,7 @@ def lanUnit (f : a ⟶ b) (g : a ⟶ c) [HasLeftKanExtension f g] : g ⟶ f ≫
 theorem lanLeftExtension_unit (f : a ⟶ b) (g : a ⟶ c) [HasLeftKanExtension f g] :
     (lanLeftExtension f g).unit = lanUnit f g := rfl
 
-/-- Evidence that the `Lan.extension f g` is a Kan extension. -/
+/-- Evidence that `lan f g` is a Kan extension. -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean]:
```suggestion
/-- Evidence that `lanLeftExtension f g` is a Kan extension. -/
```

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean [hunk 5]
```diff
@@ -239,7 +239,7 @@ def lanLiftUnit (f : b ⟶ a) (g : c ⟶ a) [HasLeftKanLift f g] : g ⟶ f₊ g
 theorem lanLiftLeftLift_unit (f : b ⟶ a) (g : c ⟶ a) [HasLeftKanLift f g] :
     (lanLiftLeftLift f g).unit = lanLiftUnit f g := rfl
 
-/-- Evidence that the `LanLift.lift f g` is a Kan lift. -/
+/-- Evidence that `lanLift f g` is a Kan lift. -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean]:
```suggestion
/-- Evidence that `lanLiftLeftLift f g` is a Kan lift. -/
```

**Comment by riccardobrasca** [comment]
No idea, let's just try again.

bors merge
